US07923450B2
a) 2-[1-Dimethylamino-methylidene]-6-hydroxy-cyclohexanone
2-Hydroxy-cyclohexanone (114 mg, 1.0 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (188 mg) as a yellow oil which was used directly in the next step.

reactant | 2-Hydroxy-cyclohexanone | 1.0 mmol, 114 mg | OC1C(CCCC1)=O | C6H10O2
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-[1-Dimethylamino-methylidene]-6-hydroxy-cyclohexanone | 188 mg | CN(C=C1C(C(CCC1)O)=O)C | C9H15NO2
